US05270313
A mixture of 1.52 ml of diethyl malonate, 1.66 g of 2,6-dimethoxybenzaldehyde, 0.1 ml of piperidine, 0.11 ml of glacial acetic acid and 100 ml of toluene was boiled at 110° C. on a water separator for 3.5 hours. The solution was extracted with 10% NaHCO3 solution and back-washed with saturated NaCl solution. The organic phase was dried, filtered under suction and evaporated under reduced pressure. There were obtained 2.8 g of diethyl (2,6-dimethoxybenzylidene)malonate, as a dark yellow oil.

reactant | diethyl malonate | 1.52 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2,6-dimethoxybenzaldehyde | 1.66 g | COC1=C(C=O)C(=CC=C1)OC | C9H10O3
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.11 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | diethyl (2,6-dimethoxybenzylidene)malonate | 2.8 g | COC1=C(C=C(C(=O)OCC)C(=O)OCC)C(=CC=C1)OC | C16H20O6
